US07173051B2
(S)-2-(Benzooxazol-2-ylamino)-3-cyclohexyl-N-[2-(4-methoxy-phenylamino)-ethyl]-propionamide
A slurry of L-cyclohexylalanine (2.44 g, 14.3 mmol) and powdered NaOH (1.14 g, 28.6 mmol) in DMSO (20 mL) was heated to 100° C. for 20 min until the mixture viscosity decreased and stirring was enabled. 2-Chlorobenzoxazole (1.99 g, 13.0 mmol) was added, and the solution was stirred at 100° C. for 4 h. Upon cooling to room temperature, the solution was poured into 1 M HCl. The precipitate was filtered and dried to afford 2-(S)-(benzooxazol-2-ylamino)-3-cyclohexyl propionic acid was isolated as a white powder (1.69 g, 41%). Step B. To a stirring solution of 2-(S)-(benzooxazol-2-ylamino)-3-cyclohexyl propionic acid (288 mg, 1.0 mmol), N1-(4-methoxy-phenyl)-ethane-1,2-diamine.2HCl (239 mg, 1.0 mmol), and iPr2NEt (0.87 mL, 5.0 mmol) in dichloromethane (4 mL) was added HATU (418 mg, 1.1 mmol). The solution was stirred at room temperature for 4 hours and then evaporated to dryness. The crude material was chromatographed over silica gel (Hexanes/EtOAc) to afford the title compound as a white powder (243 mg, 56%). HPLC-MS calcd. for C25H32N4O3 (M+H+) 437.25. found 437.5.

reactant | 2-(S)-(benzooxazol-2-ylamino)-3-cyclohexyl propionic acid | 1.0 mmol, 288 mg | O1C(=NC2=C1C=CC=C2)N[C@H](C(=O)O)CC2CCCCC2 | C16H20N2O3
reactant | N1-(4-methoxy-phenyl)-ethane-1,2-diamine | COC1=CC=C(C=C1)NCCN | C9H14N2O
reactant | iPr2NEt | 5.0 mmol, 0.87 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.1 mmol, 418 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (S)-2-(Benzooxazol-2-ylamino)-3-cyclohexyl-N-[2-(4-methoxy-phenylamino)-ethyl]-propionamide | 243 mg, 56% | O1C(=NC2=C1C=CC=C2)N[C@H](C(=O)NCCNC2=CC=C(C=C2)OC)CC2CCCCC2 | C25H32N4O3
